US07279473B2
N-Cyclopropyl-4-(6-vinylpyrazolo[1,5-b]pyridazin-3-yl)-2-pyrimidinamine
To a solution of 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate (100 mg, 0.25 mmol) in DMF (3 mL) was added Pd2(dba)3 (12 mg, 0.0125 mmol), LiCl (32 mg, 0.75 mmol), AsPh3 (31 mg, 0.10 mmol), and vinyl-tributylstannane (120 mg, 0.375 mmol). The reaction mixture was heated at an oil bath temperature of 60° C. for about 4 hours. The mixture was cooled to RT and water (20 mL) was added. The aqueous layer was washed with EtOAc (3×50 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo and purified by silica-gel column chromatography (gradient, 10-80% EtOAc in hexanes) to give the title compound as an off-white solid (26 mg, 37%). 1H-NMR (300 MHz, CDCl3). δ 9.05 (d, 1H, J=9.3 Hz), 8.44 (s, 1H), 8.30 (d, 1H, J=5.3 Hz), 7.40 (d, 1H, J=9.4 Hz), 6.92 (m, 2H), 6.22 (d, 1H, J=17.7 Hz), 5.75 (d, 1H, J=11.2 Hz), 5.48 (bs, 1H), 2.86 (m, 1H), 0.90 (m, 2H), 0.66 (m, 2H); MS (ESI) (M+H)+ 279.

reactant | 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate | 0.25 mmol, 100 mg | FC(S(=O)(=O)OC=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2CC2)(F)F | C14H11F3N6O3S
reactant | LiCl | 0.75 mmol, 32 mg | [Li+].[Cl-]
reactant | AsPh3 | 0.10 mmol, 31 mg | C=1C=CC(=CC1)[As](C=2C=CC=CC2)C=3C=CC=CC3 | C18H15As
reactant | vinyl-tributylstannane | 0.375 mmol, 120 mg | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.0125 mmol, 12 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 20 mL | O | H2O
product | N-Cyclopropyl-4-(6-vinylpyrazolo[1,5-b]pyridazin-3-yl)-2-pyrimidinamine | 26 mg, 37% | C1(CC1)NC1=NC=CC(=N1)C=1C=NN2N=C(C=CC21)C=C | C15H14N6
